US06756359B2
To a solution of 4-Iodo-5-methyl-1-trityl-1H-imidazole (1 eq) in THF at room temperature was added ethylmagnesium bromide (1.2 eq) under dry conditions. After stirring for 90 minutes, zinc chloride (1.2 eq) was added to the reaction mixture. After stirring for another 90 minutes, tetrakis(triphenylphosphine)palladium (10%) and 3-bromopyridine (1.2 eq) were added to the reaction mixture. Subsequent reaction conditions were performed as in Example 73 to give 3-(5-methyl-1H-imidazol-4-yl)-pyridine (92%). MH+(160).

reactant | 4-Iodo-5-methyl-1-trityl-1H-imidazole | 1 eq | IC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19IN2
reactant | ethylmagnesium bromide | 1.2 eq | C(C)[Mg]Br
reactant | 3-bromopyridine | 1.2 eq | BrC=1C=NC=CC1 | C5H4BrN
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1.2 eq | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-methyl-1H-imidazol-4-yl)-pyridine | 92% | CC1=C(N=CN1)C=1C=NC=CC1 | C9H9N3
